US05270309
To a suspension of ethyltriphenylphosphonium bromide (22 g) in tetrahydrofuran (150 ml) at -78° C. was added dropwise a solution of n-butyllithium in hexane (59.3 mmol). The mixture was left to warm to room temperature over 30 minutes, then cooled to -78° C. and a solution of 3-nitrobenzaldehyde (7.5 g) in tetrahydrofuran (50 ml) was added dropwise. The reaction was left to warm to room temperature over 1 hour, poured into 2M hydrochloric acid (100 ml) and ethyl acetate (100 ml). The separated aqueous layer was extracted with ethyl acetate, the organic layers were combined and washed with water, saturated sodium bicarbonate (2×50 ml), brine (2×50 ml) and dried over magnesium sulphate. The solvent was removed under reduced pressure and the crude product purified by column chromatography to give 3-(2-propenyl)nitrobenzene (5.72 g). δ(60 MHz, CDCl3) 1.9 (3H,2d, CH3), 5.9 (1 H, m, =CH--CH3), 6.3 (1H, 2d, AR--CH) and 7.3-8.1 (4H, m, ArH). To a solution of the above 3-(2-propenyl)-nitrobenzene (5.7 g) in ethyl acetate (20 ml) was added 10% palladium on carbon (0.57 g). This mixture was hydrogenated at 50 psi for 2 hours at room temperature, filtered through Hyflo and solvent evaporated to yield the crude product which was purified by column chromatography to give 3-propylaniline (4.7 g), δ (60 MHz, CDCl3) 0.9 (3H, t, CH3), 1.5 (2H, m, CH2CH3), 2.4 (2H, t, CH2CH2CH3), 3.4 (2H, bs, NH2) and 6.1 to 7.0 (4H, m, ArH).

reactant | 3-(2-propenyl)-nitrobenzene | 5.7 g | C(C=C)C=1C=C(C=CC1)[N+](=O)[O-] | C9H9NO2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.57 g | [Pd] | Pd
product | 3-propylaniline | 4.7 g | C(CC)C=1C=C(N)C=CC1 | C9H13N
